US05661159
A mixture of 7-chloro-2-(5-Chloromethylbenzofuran-2-yl)quinoline (0.45 g), methyl 2-mercaptopropionate (0.27 g), potassium carbonate (1.7 g) and Aliquat 336 (phase transfer 0.1 g) in a mixture of toluene (60 ml) and water (5 ml) was stirred at ambient temperature for 2 days. The organic layer was separated, washed with brine, dried over magnesium sulfate and concentrated in reduced pressure. The resulting residue was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and toluene (1:10). The fractions containing object Compound were combined and concentrated under reduced pressure to give 7-chloro-2-[5-[2-(methoxycarbonyl)ethylthiomethyl]benzofuran-2-yl]quinoline (0.38 g).

reactant | 7-chloro-2-(5-Chloromethylbenzofuran-2-yl)quinoline | 0.45 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)CCl | C18H11Cl2NO
reactant | methyl 2-mercaptopropionate | 0.27 g | SC(C(=O)OC)C | C4H8O2S
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Aliquat 336 | 0.1 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | 5 ml | O | H2O
product | 7-chloro-2-[5-[2-(methoxycarbonyl)ethylthiomethyl]benzofuran-2-yl]quinoline | 0.38 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)CSCCC(=O)OC | C22H18ClNO3S
